US07495007B2
In a manner similar to the method described in Example 227c, E/Z-{2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-ethyl}-carbamic acid tert-butyl ester (12 g, 30.27 mmol) was reacted with di-tert-butyl-dicarbonate (5.8 g, 27 mmol) and DMAP (0.66 g, 5.4 mmol) in CH2Cl2 to give E/Z-3-[2-(2-tert-Butoxycarbonylamino-ethoxy)-5-chloro-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (12.4 g)

reactant | Z-{2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-ethyl}-carbamic acid tert-butyl ester | 30.27 mmol, 12 g | C(C)(C)(C)OC(NCCOC1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)=O | C22H22Cl2N2O4
reactant | di-tert-butyl-dicarbonate | 27 mmol, 5.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 5.4 mmol, 0.66 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Z-3-[2-(2-tert-Butoxycarbonylamino-ethoxy)-5-chloro-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 12.4 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OCCNC(=O)OC(C)(C)C)=O | C27H30Cl2N2O6
